US08431569B2
Step 4. 1-{[(1R,2R,4R)-4-Hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carbonitrile
A flask containing 7-chloro-1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile (37 mg, 0.104 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (65 mg, 0.31 mmol), Pd2(dba)3 (9.6 mg, 0.010 mmol), tricyclohexylphosphine (7.3 mg, 0.026 mmol), and K3PO4 (1.27 M, 0.28 mL, 0.35 mmol) was evacuated and refilled with nitrogen (×3). Dioxane (3 mL) was added to the mixture, and the resultant reaction mixture was heated to 100° C. overnight, and purified by flash chromatography to afford the title compound. LRMS (APCI) calc'd for (C23H24N6O) [M+H]+, 401.2. found 401.1.

reactant | 7-chloro-1-{[(1R,2R,4R)-4-hydroxy-2-methylcyclohexyl]amino}-5H-pyrido[4,3-b]indole-4-carbonitrile | 0.104 mmol, 37 mg | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@H]3[C@@H](C[C@@H](CC3)O)C)C#N | C19H19ClN4O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.31 mmol, 65 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | tricyclohexylphosphine | 0.026 mmol, 7.3 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 0.35 mmol, 1.27 M, 0.28 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.010 mmol, 9.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{[(1R,2R,4R)-4-Hydroxy-2-methylcyclohexyl]amino}-7-(1-methyl-1H-pyrazol-4-yl)-5H-pyrido[4,3-b]indole-4-carbonitrile | O[C@H]1C[C@H]([C@@H](CC1)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C=2C=NN(C2)C)C#N)C | C23H24N6O
